US05714496
The 3-methyl-5-(3-allyl-4-trifluoromethylsulphonyloxyphenyl)-1,2,4-oxadiazole was prepared by treating 3-methyl-5-(3-allyl-4-hydroxyphenyl)-1,2,4-oxadiazole with triflic anhydride in pyridine at 0° C. using the procedure described in Example 43 to give an oil which was used without further purification.

reactant | 3-methyl-5-(3-allyl-4-hydroxyphenyl)-1,2,4-oxadiazole | CC1=NOC(=N1)C1=CC(=C(C=C1)O)CC=C | C12H12N2O2
reactant | triflic anhydride | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-methyl-5-(3-allyl-4-trifluoromethylsulphonyloxyphenyl)-1,2,4-oxadiazole | CC1=NOC(=N1)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)CC=C | C13H11F3N2O4S
